US05451607
Metal sodium (1.5 g) was gradually added to ethanol (50 ml) at room temperature, followed by stirring for 5 minutes, and diethyl carbonate (8.9 ml, 73 mmol) was added thereto at room temperature. Further, a solution of ethyl 4-chlorophenylacetate (10 g) in ethanol (10 ml) was added dropwise thereto with stirring, and the stirring was continued for 2 hours. The reaction mixture was concentreated, and diethyl ether (150 ml) and 10% aqueous acetic acid (150 ml) were added to the residue for extraction. The aqueous layer was further washed with diethyl ether (50 ml). The combined organic layer was dried over magnesium sulfate and concentrated under reduced pressure. To the resulting residue were added water (25 ml) and 37% aqueous formaldehyde (8 ml) at room temperature, followed by vigorous stirring at room temperature. After addition of an aqueous solution (36 ml) of potassium carbonate (6.5 g) over 5 minutes, the mixture reaction was stirred for 4 hours and extracted with diethyl ether (100 ml×2). The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a crude product of ethyl 4-chlorophenyl-α-methyleneacetate (yield, 10 g).

reactant | Metal | 1.5 g | N[C@@H](CCSC)C=O | C5H11NOS
reactant | diethyl carbonate | 73 mmol, 8.9 ml | C(OCC)(OCC)=O | C5H10O3
reactant | ethyl 4-chlorophenylacetate | 10 g | ClC1=CC=C(C=C1)CC(=O)OCC | C10H11ClO2
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-chlorophenyl-α-methyleneacetate | 10 g | ClC1=CC=C(C=C1)C(C(=O)OCC)=C | C11H11ClO2
